US08580841B2
Step A: Preparation of Ethyl 2-(7-(3,5-Bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
Ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (61 mg, 0.235 mmol), was dissolved in DMF (1.0 mL) and cesium carbonate (77 mg, 0.235 mmol) and 1-(bromomethyl)-3,5-bis(trifluoromethyl)benzene (72 mg, 0.235 mmol) were added. The reaction mixture was stirred at room temperature for 16 h and then filtered through a pad of Celite®. The filtrate was diluted with water and extracted three times with ethyl acetate. The combined organics were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (28.6 mg). LCMS m/z=486.4 [M+H]+.

reactant | Ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.235 mmol, 61 mg | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | cesium carbonate | 0.235 mmol, 77 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(bromomethyl)-3,5-bis(trifluoromethyl)benzene | 0.235 mmol, 72 mg | BrCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(7-(3,5-Bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 28.6 mg | FC(C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C24H21F6NO3
